US08008505B2
63.2 [rac]-4-{2-[2-(4-Chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-2-cyclohexyl-ethylsulfanyl}-benzoic acid methyl ester
To a solution of methyl 4-mercaptobenzoate (54.0 mg, 0.306 mmol; CAS Reg. No. 6302-65-4) in dry DMF (3 ml) was added K2CO3 (43.0 mg, 0.306 mmol) at 0° C. The reaction mixture was stirred for 15 minutes at 0° C. [rac]-Methanesulfonic acid 2-[2-(4-chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-2-cyclohexyl-ethyl ester (135.0 mg, 0.306 mmol) dissolved in dry DMF (1 ml) was then added at 0° C. The reaction mixture was then heated at 100° C. in a sealed tube for 12 hours. LC-MS shows the formation of the desired compound with some starting material. 10 ml of 10% citric acid solution was then added to the reaction mixture and extracted with EtOAc (3×8 ml). Combined organic layers were washed with brine (10 ml) and finally dried over Na2SO4. Organic layer was distilled under reduced pressure to get light yellow oil (234 mg), which was purified by column chromatography [SiO2 (230-400 mesh), EtOAc:Hexane 8/92] to give the title compound (57 mg, 36.2%) as a off white sticky solid.

reactant | methyl 4-mercaptobenzoate | SC1=CC=C(C(=O)OC)C=C1 | C8H8O2S
reactant | K2CO3 | 0.306 mmol, 43.0 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | [rac]-Methanesulfonic acid 2-[2-(4-chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-2-cyclohexyl-ethyl ester | 0.306 mmol, 135.0 mg | ClC1=CC=C(C=C1)N1N=C2CCCCC2=C1C(COS(=O)(=O)C)C1CCCCC1 | C22H29ClN2O3S
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | [rac]-4-{2-[2-(4-Chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-2-cyclohexyl-ethylsulfanyl}-benzoic acid methyl ester | COC(C1=CC=C(C=C1)SCC(C1CCCCC1)C=1N(N=C2CCCCC12)C1=CC=C(C=C1)Cl)=O | C29H33ClN2O2S
